US07208493B2
3-(3,4-Dihydroxy-phenyl)-N-[2-(1H-indol-2-yl)-phenyl]-propionamide
Prepared from 2-(2-aminophenyl) indole and 3,4-dihydroxyhydrocinnamic acid in 19% yield following procedure 1. The product was chromatographed on silica and crystallized from acetonitrile. 100% Purity by LC/MS (230 DAD), Mass-spec [M+H+]=373, 1H NMR (MeOH-d4): 2.60 t, 7.4 Hz (2H), 2.85 t, 7.4 Hz (2H), 6.38 s (1H), 6.55 dd, 8.2 Hz (1H), 6.69 m (2H), 7.02 t, 8 Hz (1H), 7.11 t, 8 Hz (1H), 7.27–7.35 m (2H), 7.38 d, 8 Hz (1H), 7.56 d, 8 Hz (1H), 7.58 dd, 7.1 Hz (1H), 7.70 d, 8 Hz (1H).

reactant | 2-(2-aminophenyl) indole | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | 3,4-dihydroxyhydrocinnamic acid | OC=1C=C(CCC(=O)O)C=CC1O | C9H10O4
product | 3-(3,4-Dihydroxy-phenyl)-N-[2-(1H-indol-2-yl)-phenyl]-propionamide | 19% yield | OC=1C=C(C=CC1O)CCC(=O)NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C23H20N2O3
